US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (0.059 g, 0.331 mmol), 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid (0.091 g, 0.331 mmol), HOBt (0.068 g, 0.497 mmol), DIPEA (0.087 ml, 0.497 mmol) and EDCI (0.096 g, 0.497 mmol) using DCM as solvent using the method of Example 34(d) affording 0.065 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.16 (d, 3H), 2.53 (s, 3H), 4.28-4.38 (m, 2H), 4.43-4.51 (m, 1H), 6.60 (d, 2H), 6.81-6.91 (m, 2H), 7.66 (d, 1H), 7.77 (s, 1H), 7.82 (d, 1H), 7.85 (m, 1H), 8.31 (m, 1H), 13.69 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 0.331 mmol, 0.059 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
reactant | 3-(furan-2-yl)-1H-pyrazole-5-carboxylic acid | 0.331 mmol, 0.091 g | O1C(=CC=C1)C1=NNC(=C1)C(=O)O | C8H6N2O3
reactant | HOBt | 0.497 mmol, 0.068 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.497 mmol, 0.087 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.497 mmol, 0.096 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide | 0.065 g | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C=1OC=CC1)C | C22H19ClN6O2
